US07550465B2
Step 2: 3-amino-6-methoxy-2-(4-methyl-2-propyl-imidazol-1-yl)-pyridine
To a solution prepared of 138.2 g 6-methoxy-2-(4-methyl-2-propyl-imidazol-1-yl)-3-nitro-pyridine and 900 ml ethyl alcohol 4 g palladium-charcoal were added. The reaction mixture was heated to 40° C. and then hydrogenated under pressure (10 to 15 bar). At room temperature the catalyst was filtrated off and the filtrate was evaporated. To the solid residue 150 ml methyl tert.-butyl ether (MTBE) were added. After stirring for 30 minutes the product was collected by filtration, washed with 50 ml MTBE for 2 times and dried in a dry box with vacuum (40° C.).

reactant | 6-methoxy-2-(4-methyl-2-propyl-imidazol-1-yl)-3-nitro-pyridine | 138.2 g | COC1=CC=C(C(=N1)N1C(=NC(=C1)C)CCC)[N+](=O)[O-] | C13H16N4O3
solvent | ethyl alcohol | 900 ml, 4 g | C(C)O | C2H6O
product | 3-amino-6-methoxy-2-(4-methyl-2-propyl-imidazol-1-yl)-pyridine | NC=1C(=NC(=CC1)OC)N1C(=NC(=C1)C)CCC | C13H18N4O
